US05506244
To a stirred solution of N-[[1-[[(1-mercapto-1-cyclopentyl)carbonyl]amino]-1-cyclopentyl]carbonyl]-L-tyrosine butyl ester (0.47 g, 0.99 retool) in degasseal methanol is added 1N sodium hydroxide (3.00 mL, 3.00 mmol). The mixture is stirred for 17 hours. The solvent is removed in vacuo and water (30 mL) is added to the residue. The aqueous phase is washed with ethyl acetate (10 mL) and then acidified to pH 1 with 1N hydrochloric acid. The aqueous phase is extracted with ethyl acetate (3×50 mL), washed with brine and dried over magnesium sulfate. The solvent is removed in vacuo to afford a foam which is crystallized from hexane/ethyl acetate to give N-[[1-[[(1-mercapto-1-cyclopentyl)carbonyl]amino]- 1-cyclopentyl]carbonyl]-L-tyrosine, m.p. 90° C.

reactant | N-[[1-[[(1-mercapto-1-cyclopentyl)carbonyl]amino]-1-cyclopentyl]carbonyl]-L-tyrosine butyl ester | 0.47 g | C(CCC)OC([C@@H](NC(=O)C1(CCCC1)NC(=O)C1(CCCC1)S)CC1=CC=C(C=C1)O)=O | C25H36N2O5S
reactant | sodium hydroxide | 3.00 mmol, 1N, 3.00 mL | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | N-[[1-[[(1-mercapto-1-cyclopentyl)carbonyl]amino]- 1-cyclopentyl]carbonyl]-L-tyrosine | SC1(CCCC1)C(=O)NC1(CCCC1)C(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)O | C21H28N2O5S
